US07304081B2
To a solution of 30 mg of 1-(4-chlorophenyl)cyclopropanecarboxylic acid and 81 mg BOP reagent in 0.5 mL methylene chloride wad added 27 mg of 2-phenylpyrrolidine, followed by the addition of 53 ul of Hunig base. The reaction mixture was stirred at r.t. for 2 hours and directly purified by flash column using ethyl/hexane as the eluting solvent to provide the desired 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-2-phenylpyrrolidine. LCMS (ESI): 326.1 (M+H+).

reactant | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | 30 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | BOP reagent | 81 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-phenylpyrrolidine | 27 mg | C1(=CC=CC=C1)C1NCCC1 | C10H13N
reactant | Hunig base | 53 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-2-phenylpyrrolidine | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1C(CCC1)C1=CC=CC=C1 | C20H20ClNO
